US09447051B2
N4-cyclohexyl-5,6-dimethyl-N2-(pyridin-2-ylmethyl)pyrimidine-2,4-diamine hydrochloride
To a stirred solution of 2-chloro-N-cyclohexyl-5,6-dimethylpyrimidin-4-amine (0.1 g, 0.40 mmol) and (pyridin-2-ylmethyl)amine (0.04 g, 0.400 mmol) in acetonitrile (5 mL) was added a 3.5 M solution of hydrogen chloride in dioxane (0.2 mL). The resulting mixture was irradiated in CEM Focused Microwave™ Synthesis System at 160° C. for 120 minutes. The resulting mixture was cooled to ambient temperature. The formed precipitate was collected by filtration and dried to yield 0.07 g (48.2%) of the titled compound as the hydrochloride salt. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.99-1.03 (m, 2H), 1.13 (d, J=12.63 Hz, 1H), 1.20-1.26 (m, 2H), 1.51-1.59 (m, 2H), 1.60-1.63 (m, 3H), 1.89 (s, 3H), 2.24 (s, 3H), 3.70 (s, 1H), 4.62 (d, J=5.10 Hz, 2H), 7.24 (dd, J=7.25, 4.84 Hz, 1H), 7.31 (d, J=7.79 Hz, 1H), 7.58 (d, J=7.72 Hz, 1H, 7.74 (t, J=7.66 Hz, 1H), 8.1 (s, 1H), 8.50 (d, J=4.84 Hz, 1H); MS (ESI) m/z 312.3 (M+1)+.

reactant | 2-chloro-N-cyclohexyl-5,6-dimethylpyrimidin-4-amine | 0.40 mmol, 0.1 g | ClC1=NC(=C(C(=N1)NC1CCCCC1)C)C | C12H18ClN3
reactant | (pyridin-2-ylmethyl)amine | 0.400 mmol, 0.04 g | N1=C(C=CC=C1)CN | C6H8N2
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
product | N4-cyclohexyl-5,6-dimethyl-N2-(pyridin-2-ylmethyl)pyrimidine-2,4-diamine hydrochloride | 0.07 g, 48.2% | Cl.C1(CCCCC1)NC1=NC(=NC(=C1C)C)NCC1=NC=CC=C1 | InChI=1S/C18H25N5.ClH/c1-13-14(2)21-18(20-12-16-10-6-7-11-19-16)23-17(13)22-15-8-4-3-5-9-15;/h6-7,10-11,15H,3-5,8-9,12H2,1-2H3,(H2,20,21,22,23);1H
